US09447033B2
iv) 3-[(4-Chloro-benzyl)-(1-methyl-1H-pyrazole-3-sulfonyl)-amino]-N-(2-hydroxy-ethyl)-benzamide (1)
A solution of 3-[(4-chloro-benzyl)-(1-methyl-1H-pyrazole-3-sulfonyl)-amino]-benzoic acid (30 mg, 0.07 mmol), diisopropylethylamine (0.26 ml, 0.14 mmol). HATU (56 mg, 0.15 mmol) and 2-aminoethanol (9 μL, 0.14 mmol) were stirred in dry acetonitrile (3 ml) for 18 hrs. The reaction mixture was concentrated in vacuo and the residue partitioned between dichloromethane (3 ml) and water (3 ml). The organic layer was separated and dried by passage through a hydrophobic frit, then concentrated in vacuo. The crude residue was purified by preparative HPLC to afford the title compound as an off white solid (11.9 mg). HPLC retention time 5.03 min. Mass spectrum (ES+) m/z 449 (M+H).

reactant | 3-[(4-chloro-benzyl)-(1-methyl-1H-pyrazole-3-sulfonyl)-amino]-benzoic acid | 0.07 mmol, 30 mg | ClC1=CC=C(CN(C=2C=C(C(=O)O)C=CC2)S(=O)(=O)C2=NN(C=C2)C)C=C1 | C18H16ClN3O4S
reactant | diisopropylethylamine | 0.14 mmol, 0.26 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.15 mmol, 56 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-aminoethanol | 0.14 mmol, 9 μL | NCCO | C2H7NO
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 3-[(4-Chloro-benzyl)-(1-methyl-1H-pyrazole-3-sulfonyl)-amino]-N-(2-hydroxy-ethyl)-benzamide | ClC1=CC=C(CN(C=2C=C(C(=O)NCCO)C=CC2)S(=O)(=O)C2=NN(C=C2)C)C=C1 | C20H21ClN4O4S
